US05922868
1-(4-Oxo-3-methylpentyl)-3-methyl-7-allylxanthine (melting point 73-74° C.) is prepared from 3-methyl-7-allylxanthine and 1-chloro-3-methylpentan-4-one.

reactant | 3-methyl-7-allylxanthine | CN1C(NC(C=2N(C=NC12)CC=C)=O)=O | C9H10N4O2
reactant | 1-chloro-3-methylpentan-4-one | ClCCC(C(C)=O)C | C6H11ClO
product | 1-(4-Oxo-3-methylpentyl)-3-methyl-7-allylxanthine | O=C(C(CCN1C(=O)N(C=2N=CN(C2C1=O)CC=C)C)C)C | C15H20N4O3
